US04548932
A solution of tert-butyl 3(S)-[6-tert-butoxy-carbonylamino-1(S)-ethoxycarbonylhexyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate (0.5 g) in 5N hydrogen chloride-ethyl acetate solution (10 ml) is allowed to stand for 3.5 hours at room temperature. Petroleum ether (80 ml) is added to the solution, and the resulting precipitate is collected and dried in vacuo to give 3(S)-[6-amino-1(S)-ethoxycarbonylhexyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid dihydrochloride (0.4 g) as colorless powder.

reactant | tert-butyl 3(S)-[6-tert-butoxy-carbonylamino-1(S)-ethoxycarbonylhexyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetate | 0.5 g | C(C)(C)(C)OC(CCCC[C@@H](C(=O)OCC)N[C@H]1COC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2)N=C=O | C29H43N3O8
reactant | hydrogen chloride-ethyl acetate | 5N, 10 ml | C(C)(=O)OCC.Cl
product | 3(S)-[6-amino-1(S)-ethoxycarbonylhexyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid dihydrochloride | 0.4 g | Cl.Cl.NCCCCC[C@@H](C(=O)OCC)N[C@H]1COC2=C(N(C1=O)CC(=O)O)C=CC=C2 | InChI=1S/C20H29N3O6.2ClH/c1-2-28-20(27)14(8-4-3-7-11-21)22-15-13-29-17-10-6-5-9-16(17)23(19(15)26)12-18(24)25;;/h5-6,9-10,14-15,22H,2-4,7-8,11-13,21H2,1H3,(H,24,25);2*1H/t14-,15-;;/m0../s1
